US09340538B2
Step B: Ethyl 4-(5-fluoro-4′-(trifluoromethyl)-[1,1′-biphenyl]-2-yl)-6-methyl-2-(thiazol-2-yl)-1,4-dihydropyrimidine-5-carboxylate
5-fluoro-4′-(trifluoromethyl)-[1,1′-biphenyl]-2-carbaldehyde (2.11 g, 7.87 mmol) was reacted with thiazole-2-carboximidamide hydrochloride (1.29 g, 7.87 mmol) and ethyl 3-oxobutanoate (1.23 g, 9.44 mmol) according to the procedure as described in Example 1, Step A to give the title compound as a yellow solid (1.22 g, 32%). The compound was characterized by the following spectroscopic data:

reactant | 5-fluoro-4′-(trifluoromethyl)-[1,1′-biphenyl]-2-carbaldehyde | 7.87 mmol, 2.11 g | FC1=CC=C(C(=C1)C1=CC=C(C=C1)C(F)(F)F)C=O | C14H8F4O
reactant | thiazole-2-carboximidamide hydrochloride | 7.87 mmol, 1.29 g | Cl.S1C(=NC=C1)C(N)=N
reactant | ethyl 3-oxobutanoate | 9.44 mmol, 1.23 g | O=C(CC(=O)OCC)C | C6H10O3
product | Ethyl 4-(5-fluoro-4′-(trifluoromethyl)-[1,1′-biphenyl]-2-yl)-6-methyl-2-(thiazol-2-yl)-1,4-dihydropyrimidine-5-carboxylate | 1.22 g, 32% | FC=1C=CC(=C(C1)C1=CC=C(C=C1)C(F)(F)F)C1N=C(NC(=C1C(=O)OCC)C)C=1SC=CN1 | C24H19F4N3O2S
